US03991203
Preparation of 1-phenyl-azacyclopentan-2-one
9.3 g (0.1M) aniline and 9.5 g (0.11M) γ-butyrolactone were mixed and heated to 200° for 48 hours. The mixture was then placed under high vacuum whereupon unreacted γ-butyrolactone, analine and water were removed. Distillation of the residue at 138°-140°/300 μ gave 6.3 g (39%) of the product. [84% yield, based on reclaimed starting materials.]

reactant | aniline | 0.1M, 9.3 g | NC1=CC=CC=C1 | C6H7N
reactant | γ-butyrolactone | 0.11M, 9.5 g | C1(CCCO1)=O | C4H6O2
solvent | water | O | H2O
product | 1-phenyl-azacyclopentan-2-one | 6.3 g, 39% | C1(=CC=CC=C1)N1C(CCC1)=O | C10H11NO
